### PR TITLE
feat: BitVec.eq_of_getElem_eq

### PR DESCRIPTION
**Pull request by tobiasgrosser**

### CODE REVIEW

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -168,6 +168,17 @@ theorem getMsbD_eq_getMsb?_getD (x : BitVec w) (i : Nat) :
       intros
       omega
 
+theorem eq_of_getElem_eq {x y : BitVec w}
+    (pred : ∀ (i : Fin w), x[i] = y[i]) : x = y := by
```
Comment (TwoFX) [inline src/Init/Data/BitVec/Lemmas.lean:172]: I think the preferred spelling of this would be to use `Nat`  instead of `Fin` to be consistent with the bits of the API added in #5200. 
```suggestion
    (pred : ∀ (i : Nat) (_ : i < w), x[i] = y[i]) : x = y := by
```
See also the analogous lemma [`List.ext_getElem`](https://leanprover-community.github.io/mathlib4_docs/Init/Data/List/Lemmas.html#List.ext_getElem).

Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean]: It seems for `BitVec` we used historically:

```lean
theorem eq_of_getLsbD_eq {x y : BitVec w}
    (pred : ∀(i : Fin w), x.getLsbD i.val = y.getLsbD i.val) : x = y := by

theorem eq_of_getMsbD_eq {x y : BitVec w}
    (pred : ∀(i : Fin w), x.getMsbD i.val = y.getMsbD i.val) : x = y := by
```

I guess we should at the very least remain consistent within `BitVec`.

I now added both variants to this PR and ported one theorem to show the code impact. Happy to flip to Nat, but would appreciate a comment why this is preferable over Fin.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -107,6 +107,8 @@ theorem eq_of_toNat_eq {n} : ∀ {x y : BitVec n}, x.toNat = y.toNat → x = y
 
 theorem testBit_toNat (x : BitVec w) : x.toNat.testBit i = x.getLsbD i := rfl
 
+theorem testBit_toNat_getElem (x : BitVec w) (i : Fin w): x.toNat.testBit i = x[i.val] := rfl
+
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:111]:
```suggestion
theorem testBit_toNat_getElem (x : BitVec w) (i : Fin w) : x.toNat.testBit i = x[i.val] := rfl

```

**Comment by semorrison** [comment]
I don't think it's a good idea to prove theorems about `zeroExtend` without having proved the corresponding theorems about `zeroExtend'` first.

File: src/Init/Data/BitVec/Basic.lean [hunk 3]
```diff
@@ -170,6 +170,9 @@ instance : GetElem (BitVec w) Nat Bool fun _ i => i < w where
 @[simp] theorem getLsb?_eq_getElem? (x : BitVec w) (i : Nat) :
     x.getLsb? i = x[i]? := rfl
 
+theorem getElem_eq_toNat_testBit (x : BitVec w) (i : Fin w) :
+  x[i] = x.toNat.testBit i := rfl
```
Comment (semorrison) [inline src/Init/Data/BitVec/Basic.lean:174]: This should use separate `i : Nat` and `h : i < w` arguments, otherwise it's only applicable for `getElem` of the coercion of a Fin.

**Comment by semorrison** [comment]
@tobiasgrosser, e.g. my first steps here would be #5247.

**Comment by tobiasgrosser** [comment]
This was resolved in https://github.com/leanprover/lean4/pull/5247.
